US07842688B2
a) Benzyl 3-[1-(2-acetylaminoethyl)-7-bromo-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.185 g of benzyl 3-[1-(2-aminoethyl)-7-bromo-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 1.1 ml of dichloromethane is admixed successively with 0.50 ml of pyridine and 0.21 ml of acetic anhydride and stirred at room temperature for 2 hours. The reaction mixture is poured onto water (40 ml) and extracted with ethyl acetate (2×40 ml). The organic phases are washed successively with 1M sodium hydrogencarbonate solution (40 ml) and brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a white foam from the residue by means of flash chromatography (SiO2 60F). Rf=0.17 (EtOAc-heptane=4:1); Rt=5.89.

reactant | benzyl 3-[1-(2-aminoethyl)-7-bromo-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.185 g | NCCN1C=C(C2=CC=C(C(=C12)Br)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1)C | C42H48BrN3O6
reactant | pyridine | 0.50 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.21 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1.1 ml | ClCCl | CH2Cl2
product | Benzyl 3-[1-(2-acetylaminoethyl)-7-bromo-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCN1C=C(C2=CC=C(C(=C12)Br)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1)C | C44H50BrN3O7
